US06001611
2'-Deoxyadenosine monohydrate (538 mg, 2.0 mmol, Aldrich Chemical, Milwaukee, Wisc.) was dried by evaporation with anhydrous pyridine (2 times, 10 ml) under vacuum. The residue was dissolved in anhydrous DMF (10 ml, Aldrich, Milwaukee, Wisc.) under an argon atmosphere, and sodium hydride (88 mg, 2.2 mmol, 1.1 equiv, 60% dispersion in oil) was added and stirred for 40 mins at room temperature. 2-Nitrobenzyl bromide (710 mg, 3.3 mmol, 1.5 equiv) was added and the solution was stirred for 4 hours at room temperature. The DMF was removed by evaporation under vacuum, and the residue was partitioned between ethyl acetate and water (20 ml each). The aqueous phase was extracted with ethyl acetate (20 ml) and the combined extracts were washed with water (20 ml) and dried over magnesium sulfate, filtered and evaporated. The crude product was purified by column chromatography on silica gel (50 g, using 3% MeOH in CH2Cl2) to yield 2'-deoxy-N6 -bis-ortho-nitrobenzyladenosine (320 mg, 30%).

reactant | 2'-Deoxyadenosine monohydrate | 2.0 mmol, 538 mg | O.[C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium hydride | 2.2 mmol, 88 mg, 1.1 equiv | [H-].[Na+]
reactant | 2-Nitrobenzyl bromide | 3.3 mmol, 710 mg, 1.5 equiv | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ortho-nitrobenzyladenosine | 320 mg, 30% | [N+](=O)([O-])C1=C(C[C@@]2([C@H](O)[C@H](O)[C@@H](CO)O2)N2C=NC=3C(N)=NC=NC23)C=CC=C1 | C17H18N6O6
